US07696223B2
c) 2-(4-tert-Butyl-phenyl)-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester
Under a nitrogen atmosphere, 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethy ester (1.0 g, 2.0 mmol), 4-tert-butylphenyl boronic acid (0.71 mg, 4.0 mmol), cesium carbonate (1.43 g, 4.4 mmol), and tetrakis(triphenylphosphine)palladium(0)(347 mg, 0.3 mmol) were suspended in 10 mL of 1,4-dioxane. The reaction was heated at reflux temperature overnight, cooled to room temperature and diluted with ethyl acetate. The organic mixture was successively washed with saturated sodium bicarbonate and brine solutions. The organic fractions were dried over anhydrous sodium sulfate and concentrated to an oil residue, which was then purified by column chromatography, eluting the title compound from silica gel with a gradient of (0-70%) ethyl acetate in hexanes to yield 1.11 g of a yellow oil. MS: (+) m/z 577.2 (M+Na+).

reactant | 2-bromo-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethy ester | 2.0 mmol, 1.0 g | C(C)OC(=O)C1=C(N=C(S1)Br)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C20H25BrN2O6S
reactant | 4-tert-butylphenyl boronic acid | 4.0 mmol, 0.71 mg | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | cesium carbonate | 4.4 mmol, 1.43 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.3 mmol, 347 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-tert-Butyl-phenyl)-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester | 1.11 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(C)(C)C)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C30H38N2O6S
